US07319099B2
(c) 5-Cyclopropanesulfonyl-2-hydroxy-benzoic acid
To 8.0 mmol 5-(3-chloro-propane-1-sulfonyl)-2-hydroxy-benzoic acid in 30 ml THF at −78° C. was added dropwise over 30 min 23.9 mmol of a 0.9 M solution of potassium bis(trimethylsilyl)amide in toluene. The reaction mixture was then allowed to warm to RT and stirring continued for a further 30 min at RT. The mixture was then diluted with THF/ethyl acetate (1:1) and washed sequentially with 1 M aq HCl and saturated aqueous NaCl solution, dried with Na2SO4, and concentrated in vacuo. The residue was triturated in ether/pentane to afford the title compound. MS (m/e): 241.2 ([M−H]−, 100%)

reactant | 5-(3-chloro-propane-1-sulfonyl)-2-hydroxy-benzoic acid | 8.0 mmol | ClCCCS(=O)(=O)C=1C=CC(=C(C(=O)O)C1)O | C10H11ClO5S
reactant | potassium bis(trimethylsilyl)amide | C[Si](C)(C)[N-][Si](C)(C)C.[K+]
solvent | THF | 30 ml | C1CCOC1 | C4H8O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | THF ethyl acetate | C1CCOC1.C(C)(=O)OCC
product | 5-Cyclopropanesulfonyl-2-hydroxy-benzoic acid | C1(CC1)S(=O)(=O)C=1C=CC(=C(C(=O)O)C1)O | C10H10O5S
